US04144047
Preparation of 3-(α,α,α,α',α', α'-Hexafluoro-3,5-Xylyl)-4,5-Isothiazoledicarboxylic Acid.
A mixture of 14.7 g (0.0356 mol) of dimethyl 3-(α,α,α,α',α',α'-hexafluoro-3,5-xylyl)-4,5-isothiazoledicarboxylate, 7.2 g (0.18 mol) of NaOH, and 45 ml of water was held at reflux for 2 hours, was cooled, extracted twice with ether, and acidified with 30 ml (0.36 mol) of concentrated HCl The resultant mixture was extracted three times with ether; these ether extracts were combined, dried (CaSO4), and concentrated under vacuum to 12.8 g (93.4%) of white solid, m.p 193°-193.5° with decomposition.

reactant | dimethyl 3-(α,α,α,α',α',α'-hexafluoro-3,5-xylyl)-4,5-isothiazoledicarboxylate | 0.0356 mol, 14.7 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NSC(=C1C(=O)OC)C(=O)OC)(F)F | C15H9F6NO4S
reactant | NaOH | 0.18 mol, 7.2 g | [OH-].[Na+]
reactant | HCl | 0.36 mol, 30 ml | Cl | ClH
solvent | water | 45 ml | O | H2O
product | 3-(α,α,α,α',α', α'-Hexafluoro-3,5-Xylyl)-4,5-Isothiazoledicarboxylic Acid | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NSC(=C1C(=O)O)C(=O)O)(F)F | C13H5F6NO4S
